US07723368B2
Step c) (3-bromophenyl)-but-2-enal
To a solution of (E)-3-(3-bromophenyl)-but-2-en-1-ol (1.03 g, 4.54 mmol) in DCM (10 mL) at 0 deg C., was added Dess-Martin periodinane (2.11 g, 5 mmol). The resulting suspension was warmed to 23° C. and stirred for approx. 30 min. until the reaction was complete by TLC. The mixture was poured into 50 mL of saturated aqueous NaHCO3, containing Na2S2O3 (1 g). This mixture was stirred vigorously until both layers became clear. The aqueous layer was extracted with DCM (2×) and the combined organic layers were dried over MgSO4, filtered and concentrated under vacuum. The residue was purified by flash chromatography (10% EtOAc/hexanes) to afford the titled compound as a white solid (910 mg, 89% yield) that was a 5:1 ratio of E:Z isomers.

reactant | (E)-3-(3-bromophenyl)-but-2-en-1-ol | 4.54 mmol, 1.03 g | BrC=1C=C(C=CC1)/C(=C/CO)/C | C10H11BrO
reactant | Dess-Martin periodinane | 5 mmol, 2.11 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
reactant | Na2S2O3 | 1 g | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (3-bromophenyl)-but-2-enal | 910 mg, 89% yield | BrC=1C=C(C=CC1)C(C=O)=CC | C10H9BrO
